US07132440B2
2-[4-(Hydroxy-phenyl-methyl)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide
To a solution of 2-(4-benzoyl-phenyl)-1H-benzoimidazole-5-carboxylic acid amide (Example 3,18 mg, 0.05 mmol) in anhydrous methanol (2.0 mL) was added sodium borohydride (2.0 mg, 0.05 mmol) in one portion. The reaction mixture was stirred under N2 for 1 h. The solvent was removed under reduced pressure, and the residue was re-dissolved in 1:1 ethyl acetate/H2O (40 mL). The solution was washed with H2O (20 mL) then brine (20 mL) and dried (Na2SO4). Solvent was removed under reduced pressure, and purification by chromatography (silica gel, 1% methanol saturated with ammonia/9% methanol/CH2Cl2) afforded 15 mg (83%) of the title compound. TLC (silica, 1% methanol saturated with ammonia/9% methanol/CH2Cl2): Rf=0.13. HPLC (Method A): Rt=6.36. MS (ESI+): mass calculated for C21H17N3O2, 343.1; m/z found, 344.1 [M+H]+. 1H NMR (400 MHz, CD3OD): δ 8.17 (br s, 1H), 8.07 (d, J=8.4 Hz, 2H), 7.82–7.80 (dd, J=8.4, 1.4 Hz, 1H), 7.63 (br d, J=6.7 Hz, 1H), 7.58 (d, J=8.2 Hz, 2H), 7.42–7.40 (dd, J=8.5, 1.4 Hz, 2H), 7.32 (t, J=7.5 Hz, 2H), 7.26–7.22 (m, 1H), 5.85 (s, 1H).

reactant | 2-(4-benzoyl-phenyl)-1H-benzoimidazole-5-carboxylic acid amide | 0.05 mmol, 3,18 mg | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C21H15N3O2
reactant | sodium borohydride | 0.05 mmol, 2.0 mg | [BH4-].[Na+]
solvent | methanol | 2.0 mL | CO | CH4O
product | 2-[4-(Hydroxy-phenyl-methyl)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide | 15 mg, 83% | OC(C1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N)C2=CC=CC=C2 | C21H17N3O2
